Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3][C:4]1=[C:5]([H:6])[C:7]1[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]#[C:4][C:7](=[C:5][H:6])[C:8]([H:9])([H:10])[H:11],-0.12986863915
[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][O:3][C:4][H:5]>>[H:1][O:2][O:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-6.10893715
[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],-2.73317544715
[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],4.57997715383
[H:1].[O:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-0.719420257907
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]1[O:10][C:11]1([H:12])[H:13],-1.7109081811200002
[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-4.3857512443
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])=[C:8]([O:9][H:10])[O:11][H:12]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])[O:11][H:12],1.30824976975
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:6],4.9096518991
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7](=[C:8]/[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.63285468949
[O:1]=[C:2]([H:3])[C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1]=[C:2]([H:3])[C:4]([O:5][C:6][H:7])[C:9]([H:10])([H:11])[H:12],4.61210540027
[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8],3.83082887204
[H:11].[H:1][C:2][O:3][C:4]([C:5]#[C:6][H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2][O:3][C:4]([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-2.52754345379
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[H:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][H:8].[H:9],5.0509686063
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:6][H:7]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.92127471987
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]1[O:8][C:9]1([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7](=[O:8])[C:9]([H:10])[H:11],-2.02891611651
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14]>>[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11],7.10129678
[C:1]#[C:2][H:3].[C:4]([H:5])([H:6])=[C:7]([H:8])[O:9][C:10]([H:11])[H:12]>>[C:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10]([H:11])[H:12],-1.48820092241
[C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.202322017769999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8].[H:9],4.6093200099
[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7]>>[C:3][C:4]([H:5])([H:6])[H:7].[O:1]=[C:2],3.2999418482
[H:1][C:2][O:9][C:5]([O:4][C:3])=[C:6]([H:7])[H:8]>>[H:1][C:2]1=[C:3][O:4][C:5](=[C:6]([H:7])[H:8])[O:9]1,-4.2606052163699974
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:10]([H:11])[H:12]>>[C:4]([H:5])([O:6][C:7]([H:8])[H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2][H:3],1.09669660614
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:11]([H:12])([H:13])[H:14],1.88887615567
[H:11].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[O:12][C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-4.20402779933
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.5699358433800015
[C:4]([H:5])[H:6].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],-5.37627006999
[C:1][O:2][C:3][C:4]([H:5])=[C:6]=[O:7]>>[C:1][O:2][C:3]#[C:4][H:5].[C:6]=[O:7],0.566576803922
[H:12].[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-2.07524974041
